US06043248
4-Amino-6-chloro-2-mercapto-pyrimidine mesylate salt (1.29 g, 5 mmole) is dissolved in 8 ml dry dimethylformamide in a 50 ml one neck round bottom flask under nitrogen. The solution is treated with 60% sodium hydride (400 mg, 10 mmole) (exotherm) and the mixture is stirred 45 min. 1-(1-chloroethyl)-isoquinoline (958 mg, 5 mmole) in 2×2 ml dry dimethylformamide, is added to the reaction and the mixture is stirred overnight at room temperature. The reaction mixture is poured into 200 ml water and is extracted with 4×50 ml ethyl acetate. The combined organics are backwashed with 4×50 ml 50% saturated sodium chloride. The organics are dried over potassium carbonate and are concentrated in vacuo to a yellow oil. The crude material is chromatographed over 100 g silica gel (230-400 mesh), eluting with 25% acetone/hexane while collecting 22 ml fractions. Fractions 27-39 are combined and concentrated to given a pale yellow foam. Crystallization from diethyl ether afforded 847 mg (54%) of 4-Amino-6-chloro-2-(1-(1-isoquinolyl)ethyl)thio-pyrimidine (Cpd #232) as an off-white solid.

reactant | 4-Amino-6-chloro-2-mercapto-pyrimidine mesylate salt | 5 mmole, 1.29 g | S(C)(=O)(=O)O.NC1=NC(=NC(=C1)Cl)S
reactant | sodium hydride | 10 mmole, 400 mg | [H-].[Na+]
reactant | 1-(1-chloroethyl)-isoquinoline | 5 mmole, 958 mg | ClC(C)C1=NC=CC2=CC=CC=C12 | C11H10ClN
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-Amino-6-chloro-2-(1-(1-isoquinolyl)ethyl)thio-pyrimidine | 847 mg, 54% | NC1=NC(=NC(=C1)Cl)SC(C)C1=NC=CC2=CC=CC=C12 | C15H13ClN4S
